US04448694
Bis-trimethoxysilylpropyltetraethylene pentamine (TEPA)
In a reaction flask, equipped as in example 1, there was placed 20 gms. (0.1 mole plus 10% mole excess) of tetraethylenepentamine, 40 gms. (0.2 moles) of distilled (CH3O)3Si(CH2)3Cl and 40 gms. of CH3OH. This mixture was refluxed (about 65° C.) for 3 hours where a titration showed 0.07 equiv. of Cl-. The reaction was continued at reflux for an additional 21 hours whereupon the reaction mass titrated at 0.19 equiv. of Cl-. A crude sample of this material (10 weight %) gave an initial hazy solution in acidic water or basic water but the material cleared within about 30 minutes to give stable solutions.

reactant | tetraethylenepentamine | 0.1 mole | NCCNCCNCCNCCN | C8H23N5
reactant | (CH3O)3Si(CH2)3Cl | 0.2 moles | [Si](OC)(OC)(OC)CCCCl | C6H15ClO3Si
reactant | CH3OH | CO | CH4O
solvent | water | O | H2O
product | Bis-trimethoxysilylpropyltetraethylene pentamine | CO[Si](OC)(OC)C(CCNCCNCCNCCNCCN)[Si](OC)(OC)OC | C17H45N5O6Si2
